US07786046B2
5.2.) 4-Fluoro-N-(3,3,3-trifluoro-2-hydroxy-1-methylcarbamoylpropyl)-2-trifluoromethylbenzamide (Tab. 3, No. 3.1)
3.1 g (7.9 mmol) of ethyl 4,4,4-trifluoro-2-(4-fluoro-2-trifluoromethylbenzoylamino)-3-hydroxybutyrate were dissolved in ethanol. At RT, 20 ml of a 3.9% strength solution of methylamine in ethanol was added. After 5 h of stirring at RT, methylamine gas was introduced for 10 min and the mixture was stirred at RT for 16 h. The reaction solution was then concentrated, and the residue was washed with MTBE. This gave 1.8 g (61% of theory) of the title compound as colorless crystals (diastereomer ratio 3:1) of m.p. 212° C.

reactant | ethyl 4,4,4-trifluoro-2-(4-fluoro-2-trifluoromethylbenzoylamino)-3-hydroxybutyrate | 7.9 mmol, 3.1 g | FC(C(C(C(=O)OCC)NC(C1=C(C=C(C=C1)F)C(F)(F)F)=O)O)(F)F | C14H12F7NO4
reactant | methylamine | CN | CH5N
solvent | ethanol | C(C)O | C2H6O
product | 4-Fluoro-N-(3,3,3-trifluoro-2-hydroxy-1-methylcarbamoylpropyl)-2-trifluoromethylbenzamide | FC1=CC(=C(C(=O)NC(C(C(F)(F)F)O)C(NC)=O)C=C1)C(F)(F)F | C13H11F7N2O3
